US08357688B2
To a solution of 2 g of methyl 4-fluoro-2-hydroxybenzoate in 60 mL of tetrahydrofuran were added 1.83 g of hydroxyethyl 2-acetate and 3.56 g of tributylphosphine, and then 5.93 g of 1,1′-(azodicarbonyl)dipiperidine was slowly added thereto under ice-cooling, followed by stirring for 20 minutes. The mixture was warmed to room temperature and stirred for 6 hours. The reaction mixture was poured into a mixed liquid of water and ethyl acetate. The aqueous layer was separated, the organic layer was washed with saturated brine and then dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (normal hexane/ethyl acetate) to obtain 2.4 g of methyl 2-(2-acetoxyethoxy)-4-fluorobenzoate.

reactant | methyl 4-fluoro-2-hydroxybenzoate | 2 g | FC1=CC(=C(C(=O)OC)C=C1)O | C8H7FO3
reactant | tributylphosphine | 3.56 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 5.93 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | water | O | H2O
reactant | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-(2-acetoxyethoxy)-4-fluorobenzoate | 2.4 g | C(C)(=O)OCCOC1=C(C(=O)OC)C=CC(=C1)F | C12H13FO5
